US07148357B2
3.46 g (13.17 mmol) of 2-amino-N-isoquinolin-3-yl-benzamide is introduced into 50 ml of methanol, mixed with 1.5 ml of glacial acetic acid as well as 2.45 g (13.17 mmol) of 2-bromopyridine-5-carbaldehyde and stirred for 24 hours under argon and in a moisture-free environment at room temperature. Then, it is mixed with 828 mg (13.17 mmol) of sodium cyanoborohydride and stirred for another 24 hours at room temperature. After concentration by evaporation under vacuum, the residue is taken up in dilute sodium bicarbonate solution and suctioned off. The residue that is obtained is absorptively precipitated in a little ethyl acetate and suctioned off repeatedly. The residue that is obtained in this case is chromatographed on silica gel with hexane:ethyl acetate=1:1 as an eluant. 3.27 g (57% of theory) of 2-[(6-bromo-pyridin-3-ylmethyl)-amino]-N-isoquinolin-3-yl-benzamide is obtained.

reactant | 2-amino-N-isoquinolin-3-yl-benzamide | 13.17 mmol, 3.46 g | NC1=C(C(=O)NC=2N=CC3=CC=CC=C3C2)C=CC=C1 | C16H13N3O
reactant | methanol | 50 ml | CO | CH4O
reactant | 2-bromopyridine-5-carbaldehyde | 13.17 mmol, 2.45 g | BrC1=NC=C(C=C1)C=O | C6H4BrNO
reactant | sodium cyanoborohydride | 13.17 mmol, 828 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | 2-[(6-bromo-pyridin-3-ylmethyl)-amino]-N-isoquinolin-3-yl-benzamide | 3.27 g, 57% | BrC1=CC=C(C=N1)CNC1=C(C(=O)NC=2N=CC3=CC=CC=C3C2)C=CC=C1 | C22H17BrN4O
